US06320050B1
A solution of benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (0.62 g, 1.41 mmol) and 2-(3-chloro-4-methylsulfanyl-phenyl)-3-cyclopentyl-propionic acid (0.29 g, 0.95 mmol) in methylene chloride (10 mL) was treated with N,N-diisopropylethylamine (500 μL, 2.87 mmol) and 2-aminothiazole (140 mg, 1.27 mmol). The mixture was stirred under nitrogen at 25° C. for 14 h. The reaction mixture was then washed with a 6 N aqueous hydrochloric acid solution (1×15 mL) and washed with a saturated aqueous sodium chloride solution (1×25 mL). The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 4/1 hexanes/ethyl acetate) afforded 2-(3-chloro-4-methylsulfanyl-phenyl)-3-cyclopentyl-N-thiazol-2-yl-propionamide (0.26 g, 71%) as a white solid: EI-HRMS m/e calcd for C18H21ClN2OS2 (M+) 380.0783, found 380.0792.

reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 1.41 mmol, 0.62 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 2-(3-chloro-4-methylsulfanyl-phenyl)-3-cyclopentyl-propionic acid | 0.95 mmol, 0.29 g | ClC=1C=C(C=CC1SC)C(C(=O)O)CC1CCCC1 | C15H19ClO2S
reactant | N,N-diisopropylethylamine | 2.87 mmol, 500 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-aminothiazole | 1.27 mmol, 140 mg | NC=1SC=CN1 | C3H4N2S
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-chloro-4-methylsulfanyl-phenyl)-3-cyclopentyl-N-thiazol-2-yl-propionamide | 0.26 g, 71% | ClC=1C=C(C=CC1SC)C(C(=O)NC=1SC=CN1)CC1CCCC1 | C18H21ClN2OS2
